US09289503B2
To a stirring mixture of (S)-tert-butyl 6-amino-2-((2-(trimethylsilyl)ethoxy)carbonyl)hexanoate (800 mg, 2.31 mmol), monomethyl fumarate (361 mg, 2.77 mmol), DIEA (1.1 mL, 6.93 mmol) in 10 mL acetonitrile was added HATU (1.14 g, 3.00 mmol) in one portion at 0° C. under an inert atmosphere of argon. The resulting reaction mixture was stirred at room temperature tor 2 h and then concentrated under reduced pressure. The resulting residue was diluted with EtOAc (50 mL) and washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by silica gel chromatography (EtOAc/pentane) afforded (S,E)-tert-butyl 6-(4-methoxy-4-oxobut-2-enamido)-2-((2-(trimethylsilyl)ethoxy)carbonyl)hexanoate (900 mg, 85%).

reactant | (S)-tert-butyl 6-amino-2-((2-(trimethylsilyl)ethoxy)carbonyl)hexanoate | 2.31 mmol, 800 mg | NCCCC[C@H](C(=O)OC(C)(C)C)C(=O)OCC[Si](C)(C)C | C16H33NO4Si
reactant | monomethyl fumarate | 2.77 mmol, 361 mg | C(\C=C\C(=O)[O-])(=O)OC
reactant | DIEA | 6.93 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.00 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S,E)-tert-butyl 6-(4-methoxy-4-oxobut-2-enamido)-2-((2-(trimethylsilyl)ethoxy)carbonyl)hexanoate | 900 mg, 85% | COC(/C=C/C(=O)NCCCC[C@H](C(=O)OC(C)(C)C)C(=O)OCC[Si](C)(C)C)=O | C21H37NO7Si
